US05221739
1.05 g desacetyl glutaryl 7ACA calcium salt (2.0 mmoles) is dissolved in 10 ml water and the solution is diluted to 15 ml with water. The solution is chilled in an ice bath and then added simultaneously is 1.9 ml acetic anhydride (20 mmoles) at 0.0475 ml/min and 40% sodium hydroxide at a rate to maintain the reaction pH at 10.0±1. By HPLC the >99% desacetyl glutaryl 7ACA/glutaryl 7ACA is converted to 97% glutaryl 7ACA/desacetyl glutaryl 7ACA. After all of the acetic anhydride is added the pH is allowed to drift down to 9.1 and 3.33 g calcium chloride is added which upon dissolving lowers the pH to 7.22. One drop of 6N HCl is added to drop the pH to 6.4 and the reaction solution is diluted with water to 25 ml. The conversion yield at this point by HPLC is 90%. The glutaryl 7ACA calcium salt product is precipitated by adding 10 volumes (250 ml) of ethanol to the reaction solution. A gelatinous precipitate of calcium acetate coprecipitates with the product. The precipitate is filtered and washed with 50 ml ethanol, then is dried at 50° C. in the vacuum oven. The dry powder is pulverized and reslurried in 250 ml methanol to dissolve the calcium acetate. The product is filtered and washed with 50 ml methanol. Crystallization yield to the air-dried powder (glutaryl 7ACA purity is 48%) is 93%. Besides HPLC identification, the product matches the starting NMR and IR spectra of glutaryl 7ACA.

reactant | acetic anhydride | 20 mmoles, 1.9 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | sodium hydroxide | [OH-].[Na+]
reactant | desacetyl glutaryl 7ACA glutaryl 7ACA | C1C(=C(N2[C@H](S1)[C@@H](C2=O)NC(=O)CCCC(=O)O)C(=O)O)CO.CC(=O)OCC1=C(N2[C@@H]([C@@H](C2=O)NC(=O)CCCC(=O)O)SC1)C(=O)O
reactant | glutaryl 7ACA desacetyl glutaryl 7ACA | CC(=O)OCC1=C(N2[C@@H]([C@@H](C2=O)NC(=O)CCCC(=O)O)SC1)C(=O)O.C1C(=C(N2[C@H](S1)[C@@H](C2=O)NC(=O)CCCC(=O)O)C(=O)O)CO
reactant | calcium chloride | 3.33 g | [Cl-].[Ca+2].[Cl-]
solvent | water | 10 ml | O | H2O
catalyst | HCl | 6N, One drop | Cl | ClH
product | glutaryl 7ACA | CC(=O)OCC1=C(N2[C@@H]([C@@H](C2=O)NC(=O)CCCC(=O)O)SC1)C(=O)O | C15H18N2O8S
